US04279637
PREPARATION OF ETHYL (4-PHENOXYPHENYL)CARBAMATE
4-Phenoxybenzenamine (18.5 grams; 0.1 mole) and pyridine (50 ml) were charged into a glass reaction vessel fitted with a mechanical stirrer and thermometer and cooled to about 4° C. Ethyl chloroformate (13.5 grams; 0.125 mole) was added and the reaction stirred at about 4° C. for a period of about 30 minutes, stirring was then continued at room temperature for another 16 hours. Crystallization occured, whereupon the precipitate was filtered from the reaction medium, washed with water, and air dried to give the desired product ethyl (4-phenoxyphenyl)carbamate.

reactant | 4-Phenoxybenzenamine | 0.1 mole, 18.5 grams | O(C1=CC=CC=C1)C1=CC=C(C=C1)N | C12H11NO
reactant | Ethyl chloroformate | 0.125 mole, 13.5 grams | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | ethyl (4-phenoxyphenyl)carbamate | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC(OCC)=O | C15H15NO3
